US05710150
4,4-Difluoro-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one (940 mg) was dissolved in 20 ml of acetic acid, 3.07 g of stannous chloride was added to the solution at room temperature and then the resulting mixture was heated under reflux for 5 hours. The reaction solution was ice-cooled and adjusted to a basic range with 1N sodium hydroxide. Then, after separating the organic layer, the water layer was extracted with ethyl acetate. The resulting organic layer was dried over anhydrous potassium carbonate and the solvent was evaporated under a reduced pressure. The thus prepared residue was recrystallized from chloroformhexane to obtain 711 mg of 1-(4-aminobenzoyl)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one.

reactant | 4,4-Difluoro-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 940 mg | FC1(CCN(C2=C(C1=O)C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)F | C17H12F2N2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(4-aminobenzoyl)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 711 mg | NC1=CC=C(C(=O)N2CCC(C(C3=C2C=CC=C3)=O)(F)F)C=C1 | C17H14F2N2O2
